US09290460B2
The 1-phenyl substituted compound can be prepared as illustrated by the exemplary reaction in Scheme 4. Reaction of 2-bromobenzamide with oxalyl chloride in DCM, followed by addition of methyl 3-aminobenzoate produced methyl 3-(3-(2-bromobenzoyl)ureido)benzoate. Reaction of the benzoate with potassium tert-butoxide in DMF produced 1-(3-methoxycarbonylphenyl)quinazoline-2,4(1H,3H)-dione. Hydrolysis of the ester with NaOH in water-methanol produced 1-(3-carboxyphenyl)quinazoline-2,4(1H,3H)-dione. Coupling of the acid with 2-(piperazin-1-yl)pyrimidine in the presence of coupling agents, such as HATU and DIPEA in DMF, produced the targeted compound 1-(3-(1-(pyrimidin-2-yl)piperazine-4-carbonyl)phenyl)quinazoline-2,4(1H,3H)-dione.

reactant | 2-bromobenzamide | BrC1=C(C(=O)N)C=CC=C1 | C7H6BrNO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 3-aminobenzoate | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 3-(3-(2-bromobenzoyl)ureido)benzoate | BrC1=C(C(=O)NC(NC=2C=C(C(=O)OC)C=CC2)=O)C=CC=C1 | C16H13BrN2O4
